US04753941
The procedure is similar to that described in Example 2, but starting with 5-methylthio-2-thiophenecarboxylic acid (5.6 g), N,N'-carbonyldiimidazole (5.2 g) and 2-amino-7-chloro-1,8-naphthyridine (4.3 g). The product obtained by precipitation in water is purified by recrystallization in a dimethylformamide/methanol (5:5 by volume) mixture (200 cc). N-(7-Chloro-1,8-naphthyridin-2-yl)-5-methylthio-2-thiophenecarboxamide (6.1 g), m.p. 235° C., is thereby obtained.

reactant | 5-methylthio-2-thiophenecarboxylic acid | 5.6 g | CSC1=CC=C(S1)C(=O)O | C6H6O2S2
reactant | 2-amino-7-chloro-1,8-naphthyridine | 4.3 g | NC1=NC2=NC(=CC=C2C=C1)Cl | C8H6ClN3
solvent | water | O | H2O
product | N-(7-Chloro-1,8-naphthyridin-2-yl)-5-methylthio-2-thiophenecarboxamide | 6.1 g | ClC1=CC=C2C=CC(=NC2=N1)NC(=O)C=1SC(=CC1)SC | C14H10ClN3OS2
